US07968720B2
(rac.)-(1R*,5S*)-7-{6-[2-(2,6-Dichloro-4-methyl-phenoxy)-ethoxy]-pyridin-3-yl}-9-methyl-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic Acid 3-tert-butyl Ester 6-ethyl Ester (C4)
A sol. of 5-bromo-2-[2-(2,6-dichloro-4-methyl-phenoxy)-ethoxy]-pyridine (790 mg, 2.10 mmol) in THF (18 mL) was cooled to −78° C. BuLi (1.6M in hexane, 2.65 mL, 4.20 mmol) was added. The mixture was stirred at −78° C. for 1 h, and ZnCl2 (1M in THF, 6.30 mL, 6.30 mmol) was added. The mixture was allowed to warm to rt. A sol. of (rac.)-(1R*,5S*)-9-methyl-7-trifluoromethanesulfonyloxy-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester (WO 2003/093267; 641 mg, 1.40 mmol) in THF (3.00 mL), and then Pd(PPh3)4 (40 mg, 0.035 mmol) were added. The mixture was rapidly heated to 55° C., and was stirred at this temperature for 20 min. The mixture was allowed to cool to rt, and aq. sat. NH4Cl was added. The solvents were partially removed under reduced pressure, and the rest was diluted with EtOAc. This mixture was washed with water. The aq. layer was extracted back with EtOAc (3×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 1:3→EtOAc) yielded the title compound (444 mg, 52%). LC-MS: tR=0.94 min; ES+: 606.28.

reactant | 5-bromo-2-[2-(2,6-dichloro-4-methyl-phenoxy)-ethoxy]-pyridine | 2.10 mmol, 790 mg | BrC=1C=CC(=NC1)OCCOC1=C(C=C(C=C1Cl)C)Cl | C14H12BrCl2NO2
reactant | BuLi | 4.20 mmol, 1.6M, 2.65 mL | [Li]CCCC
reactant | (rac.)-(1R*,5S*)-9-methyl-7-trifluoromethanesulfonyloxy-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic acid 3-tert-butyl ester 6-ethyl ester | 1.40 mmol, 641 mg | C(C)OC(=O)C=1[C@H]2CN(C[C@@H](CC1OS(=O)(=O)C(F)(F)F)N2C)C(=O)OC(C)(C)C | C17H25F3N2O7S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | THF | 3.00 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 6.30 mmol, 1M, 6.30 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.035 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (rac.)-(1R*,5S*)-7-{6-[2-(2,6-Dichloro-4-methyl-phenoxy)-ethoxy]-pyridin-3-yl}-9-methyl-3,9-diaza-bicyclo[3.3.1]non-6-ene-3,6-dicarboxylic Acid 3-tert-butyl Ester 6-ethyl Ester | 444 mg, 52% | C(C)OC(=O)C=1[C@H]2CN(C[C@@H](CC1C=1C=NC(=CC1)OCCOC1=C(C=C(C=C1Cl)C)Cl)N2C)C(=O)OC(C)(C)C | C30H37Cl2N3O6
